US07906517B2
Methyl (S)-2-[3-(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-3-ethyl-ureido]-3-tert-butoxy-propionate (455 mg) is dissolved in a 4N-hydrochloric acid in dioxane (5 ml), and the mixture is stirred at room temperature for 8 hours. To the reaction solution are added a saturated aqueous sodium bicarbonate solution and ethyl acetate, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=1:1→0:1) to give methyl (S)-2-[3-(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-3-ethyl-ureido]-3-hydroxy-propionate (285 mg). MS (m/z): 753 [M+H]+

reactant | Methyl (S)-2-[3-(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-3-ethyl-ureido]-3-tert-butoxy-propionate | 455 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)N2CCOCC2)CC2=C(C=CC(=C2)C(F)(F)F)N(C(N[C@H](C(=O)OC)COC(C)(C)C)=O)CC)C=C(C1)C(F)(F)F)(F)F | C36H41F9N6O5
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hydrochloric acid | Cl | ClH
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | methyl (S)-2-[3-(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-3-ethyl-ureido]-3-hydroxy-propionate | 285 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)N2CCOCC2)CC2=C(C=CC(=C2)C(F)(F)F)N(C(N[C@H](C(=O)OC)CO)=O)CC)C=C(C1)C(F)(F)F)(F)F | C32H33F9N6O5
